US05071844
4-(2-[Methanesulphonyloxy]ethyl)pyrimidine
A solution of methanesulphonyl chloride (137 mg) in dichloromethane (2 ml) was added to a solution of 4-(2-hydroxyethyl)pyrimidine (124 mg) (prepared by the method of C. G. Overberger and I. C. Kogon, JACS, 76, 1879 (1954)) and triethylamine (121 mg) in dichloromethane (10 ml), the mixture stirred at room temperature for 3 hours and evaporated under reduced pressure to give the crude title compound as a pale yellow oil which was used directly in Example 10 without further purification.

reactant | methanesulphonyl chloride | 137 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(2-hydroxyethyl)pyrimidine | 124 mg | OCCC1=NC=NC=C1 | C6H8N2O
reactant | triethylamine | 121 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(2-[Methanesulphonyloxy]ethyl)pyrimidine | CS(=O)(=O)OCCC1=NC=NC=C1 | C7H10N2O3S
